US06693123B2
To 2.60 g (8.14 mmol) of 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid methyl ester, prepared as in Example 187B, was added 15 mL of methanol, and a solution of 0.79 g (12 mmol) of 85% KOH in 3 mL of water. The mixture was stirred at reflux for 3 hours, then concentrated in vacuo. The residue was taken up in 5 mL of water and treated with 12 mL of 1M aqueous HCl. The precipitated product was filtered and washed with a small amount of water. The combined washings and filtrate were adjusted to pH 4 with 1M HCl, and additional precipitate was collected, then washed with water. The combined precipitates were dried in vacuo to give 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid (2.48 g, 99%) as an off-white powder. 1H NMR (300 MHz, d6-DMSO) δ 5.31 (s, 2H), 7.31-7.56 (m, 9H), 7.76 (d, J=7.5 Hz, 1H), 8.19 (dd, J=1.0, 6.0 Hz, 1H), 8.39 (d, J=3.0 Hz, 1H), 12.8 (br s, 1H).

reactant | 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid methyl ester | 8.14 mmol, 2.60 g | COC(C1=C(C=C(C=C1)COC=1C=NC=CC1)C1=CC=CC=C1)=O | C20H17NO3
reactant | methanol | 15 mL | CO | CH4O
reactant | KOH | 12 mmol, 0.79 g | [OH-].[K+]
solvent | water | 3 mL | O | H2O
product | 4-(3-pyridyloxymethyl)-2-phenylbenzoic acid | 2.48 g, 99% | N1=CC(=CC=C1)OCC1=CC(=C(C(=O)O)C=C1)C1=CC=CC=C1 | C19H15NO3
